US04299831
5.03 g of anhydrous 5-amino-tetrazole were suspended with stirring at 8° C. in 230 ml of ethyl acetate and a solution of 21.9 g of 2,8-bis-(trifluoromethyl)-4-hydroxy-3-quinoline-carboxylic acid chloride in 230 ml of ethyl acetate and a solution of 18 g of triethylamine in 180 ml of ethyl acetate were simultaneously added to the reaction mixture over 15 minutes. The mixture returned to room temperature and was refluxed for one hour and cooled. The mixture was vacuum filtered and the recovered product was dissolved in one liter of water. The filtrate wash waters were added to the solution and the pH was adjusted to 1 by addition of 20% hydrochloric acid. The mixture was vacuum filtered and the recovered product was dissolved in 50 ml of 2 N sodium hydroxide. 150 ml of water were added to the solution and the mixture was heated to reflux and cooled. The mixture was acidified with 100 ml of 20% hydrochloric acid and was vacuum filtered. The product was dried and crystallized from 250 ml of acetic acid to obtain 12.279 g of 2,8-bis-(trifluoromethyl)-4-hydroxy-N-(1H-tetrazol-5-yl)-3-quinolinecarboxamide melting at >260° C.

reactant | 5-amino-tetrazole | 5.03 g | NC1=NN=NN1 | CH3N5
reactant | 2,8-bis-(trifluoromethyl)-4-hydroxy-3-quinoline-carboxylic acid chloride | 21.9 g | FC(C1=NC2=C(C=CC=C2C(=C1C(=O)Cl)O)C(F)(F)F)(F)F | C12H4ClF6NO2
reactant | triethylamine | 18 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 230 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 230 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 180 ml | C(C)(=O)OCC | C4H8O2
product | 2,8-bis-(trifluoromethyl)-4-hydroxy-N-(1H-tetrazol-5-yl)-3-quinolinecarboxamide | 12.279 g | FC(C1=NC2=C(C=CC=C2C(=C1C(=O)NC1=NN=NN1)O)C(F)(F)F)(F)F | C13H6F6N6O2
